US04166862
23.8 g of 7-hydroxy-isoflavone in 200 ml of anhydrous acetone are boiled, under stirring, with 18 g of n-hexyl bromide, 18 g of potassium carbonate and 1 g of potassium iodide for 72 hours under reflux condenser. The inorganic salts are removed by filtration, the filtrate is subjected to steam distillation in order to remove acetone and excess reagent, the precipitate is filtered and recrystallized from acetone, yielding 20 g of 7-n-hexyloxy-isoflavone, m.p. 120°-122° C. In a similar way, also 7-isopropyloxy-isoflavone, 7-n-butyloxy-isoflavone, and 7-n-amyloxy-isoflavone already characterized in Example 1, 7-isopropyloxy-2-methyl-isoflavone, 7-n-butyloxy-isoflavone and 7-n-amyloxy-isoflavone already characterized in Example 5, and

reactant | 7-hydroxy-isoflavone | 23.8 g | OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | n-hexyl bromide | 18 g | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 1 g | [I-].[K+]
product | 7-n-hexyloxy-isoflavone | 20 g | C(CCCCC)OC1=CC=C2C(C(=COC2=C1)C1=CC=CC=C1)=O | C21H22O3
